US04021432
A misture of 13.0 parts of 4-dodecyloxy-2,2,6,6-tetramethylpiperidine and 3.42 parts of benzyl bromide was heated at 100° C. for 48 hours. Petroleum ether (b.p. 40°-60° C.) was added to the cooled reaction mixture and the 4-dodecyloxy-2,2,6,6-tetramethylpiperidine hydrobromide formed during the reaction was filtered off. The petroleum ether solvent was removed by distillation under reduced pressure and the residue fractionally distilled to give 4-dodecyloxy-1-benzyl-2,2,6,6,-tetramethylpiperidine having a boiling point of 200° C. at 0.5 m.m. of Hg. and the following elemental analysis by weight:

reactant | 4-dodecyloxy-2,2,6,6-tetramethylpiperidine | C(CCCCCCCCCCC)OC1CC(NC(C1)(C)C)(C)C | C21H43NO
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 4-dodecyloxy-2,2,6,6-tetramethylpiperidine hydrobromide | Br.C(CCCCCCCCCCC)OC1CC(NC(C1)(C)C)(C)C | InChI=1S/C21H43NO.BrH/c1-6-7-8-9-10-11-12-13-14-15-16-23-19-17-20(2,3)22-21(4,5)18-19;/h19,22H,6-18H2,1-5H3;1H
